US07897597B2
2-(7-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine (1.88 g, 4.65 mmol), triethylamine (1.3 mL, 9.3 mmol), and dichloromethane (50 mL) were combined and cooled to 0° C. Acetyl chloride (0.36 mL, 5.11 mmol) was added and the reaction was stirred for 30 minutes. The cooling bath was removed and the reaction was stirred for an additional 3.5 hours. Water was added and the layers were separated. The organic fraction was sequentially washed with brine; dried over sodium sulfate; filtered; and concentrated under reduced pressure to provide a tan solid. The solid was purified by flash column chromatography on silica gel (eluting with a gradient of 6-7.5% methanol in dichloromethane) to yield 1.71 g of N-[2-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide as a cream colored solid.

reactant | 2-(7-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine | 4.65 mmol, 1.88 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)N)COCC | C24H28N4O2
reactant | triethylamine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 5.11 mmol, 0.36 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide | 1.71 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)NC(C)=O)COCC | C26H30N4O3
